US06608171B1
Briefly, the AB2 monomer, 2,3-bis(3-amino-4-hydroxyphenyl)quinoxaline-6-carboxylic acid dihydrochloride, is synthesized by condensing 3,4-diaminobenzoic acid and 4,4′-dimethoxybenzil to afford 2,3-bis(4-methoxyphenyl) quinoxaline-6-carboxylic acid, followed by demethylation in hydrobromic acid in acetic acid to form 2,3-bis(4-hydroxyphenyl) quinoxaline-6-carboxylic acid. The latter is then nitrated using nitric acid (70% conc.) in acetic acid at room temperature, yielding 2,3-bis(3-nitro-4-hydroxyphenyl) quinoxaline-6-carboxylic acid. The desired monomer is prepared by catalytic reduction in the presence of palladium catalyst in 10% hydrochloric acid.

reactant | 2,3-bis(3-amino-4-hydroxyphenyl)quinoxaline-6-carboxylic acid dihydrochloride | Cl.Cl.NC=1C=C(C=CC1O)C1=NC2=CC=C(C=C2N=C1C1=CC(=C(C=C1)O)N)C(=O)O
reactant | 3,4-diaminobenzoic acid | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | 4,4′-dimethoxybenzil | COC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)OC | C16H14O4
product | 2,3-bis(4-methoxyphenyl) quinoxaline-6-carboxylic acid | COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1C1=CC=C(C=C1)OC)C(=O)O | C23H18N2O4
